Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
anemia referred from PCP

 
___ or Invasive Procedure:
Endoscopy ___
Capsule study ___

 
History of Present Illness:
 Mr. ___ is an ___ yo man who presented to the ED at the 
prompting of his PCP for evaluation of anemia. There was concern 
for worsening anemia in addition to heme positive stool. The 
patient denies any chest pain, shortness of breath or abdominal 
pain. He states that he has intermittent left lower quadrant 
abdominal discomfort when eating but is currently ___. On 
previous admission, he was also noted to have lower abdominal 
pain with bowel movements. He reports no changes in bowel or 
bladder habits recently, and feels he should perhaps not have 
come to the hospital because his wife is in rehab after breaking 
her hip. His aide is at the bedside and reports he did have some 
weakness last week and some difficulty walking with his walker, 
but this resolved. 

In the ED, initial vital signs were 97.2 92 116/67 20 95%RA. 
Abdominal exam was benign and rectal exam notable for guaiac 
positive brown stool. On the floor, T 97.3 112/63  84  18  
94%RA. 

Review of Systems:  
(+)  per HPI-
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
  

 
Past Medical History:
T2DM - now resolved s/p weight loss, A1c<5% in ___, not on 
treatment
ESRD- most likely multifactorial from diabetic nephropathy  
and obstructive nephropathy. On dialysis since ___.  
Atrial fibrillation- Pt is anticoagulated on coumadin.  
Hypertension  
CHF outpatient TTE ___ with LVEF ___  
Obesity  
Gout  
PVD  
Anemia of chronic disease- Secondary to renal dysfunction.  
Sleep apnea  
Autonomic dysfunction (no longer on midodrine and fludrocort)  

 
Social History:
___
Family History:
His grandparents and father have hypertension and diabetes.  
 
Physical Exam:
Admission Physical Exam:  
Vitals- T 97.3 112/63  84  18  94%RA.
General- Alert, oriented, no acute distress, pleasant, 
cooperative  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- irregularly irregular, ___ SEM at the apex  
Abdomen- soft, ___, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- ___ intact, motor function grossly normal, gait 
deferred  
 
Discharge Physical Exam:
Vitals- T 97.9 ___  ___  100%RA  pain ___
General- Alert, oriented, no acute distress, pleasant, 
cooperative  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- irregularly irregular, ___ SEM at the apex  
Abdomen- soft, ___, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- ___ intact, motor function grossly normal, gait 
deferred  

 
Pertinent Results:
Admission Labs: 
___ 01:15PM BLOOD ___ 
___ Plt ___
___:15PM BLOOD ___ 
___
___ 01:15PM BLOOD ___ ___
___ 01:15PM BLOOD Ret ___
___ 01:15PM BLOOD ___ 
___
___ 01:15PM BLOOD ___ LD(LDH)-147 ___ 
___
___ 01:15PM BLOOD ___
___ 01:15PM BLOOD ___ 
___
.
.
Discharge Labs:
___ 09:00AM BLOOD ___ 
___ Plt ___
___ 09:00AM BLOOD ___ ___
___ 09:00AM BLOOD ___ 
___
.
Studies: 
HELICOBACTER PYLORI ANTIBODY TEST (Final ___: NEGATIVE BY 
EIA. 
.
___ EGD: Esophagus: Normal esophagus. Stomach:  Mucosa: 
Segmental erythema and friability of the mucosa with contact 
bleeding were noted in the antrum and ___ region. These 
findings are compatible with gastritis. Duodenum: Normal 
duodenum. 
Impression: Erythema and friability in the antrum and 
___ region compatible with gastritis 
.           
Capsule ___: Pending analysis 
 
Brief Hospital Course:
___ with PMH ESRD on HD (___), afib on warfarin presenting 
at the prompting of his PCP for evaluation of anemia and guaiac 
positive brown stool. 
.
# Anemia: ___ records show no real change in baseline anemia 
on admission however his anemia has been slowly worsening over 
time which has been attributed mostly to ESRD. More concerning 
was newly guaiac positive stool; on previous admission he was 
noted to have both esophagitis and gastritis on EGD and repeat 
EGD had been due to subjective clinical improvement. Repeat EGD 
showed persistent gastritis and patient was continued on 
pantoprazole BID. He was also started on sucralfate TID. Capsule 
study was done on day of discharge and he will follow up with 
PCP and GI for the results. He did not require any transfusions 
during this admission and remained hemodynamically stable 
without orthostasis or active signs of bleeding throughout. 
.
.
# ESRD on HD: Continued on home schedule ___. He was 
followed by the nephrology team while in the hospital who 
recommended follow up with vascular surgery for possible 
revision of his AVF as it was not functioning optimally. 
Outpatient follow up was arranged with vascular surgery. Home 
renal medications continued: Cinacalcet 30 mg PO BID, sevelamer 
CARBONATE 1600 mg PO TID W/MEALS, Paricalcitol 6 mcg IV 3X/WEEK 
(___) with dialysis treatment, Nephrocaps 1 CAP PO DAILY.  
Recommend consideration of trial increased EPO dose with 
dialysis and then ___ to see if this improves anemia.  
.
.
# HTN: Stable and inactive during this hospitalization. 
Continued home metoprolol. 
.
# ___ Dilated CM  -  EF ___ on last ECHO. No issues 
during this hospitalization. Continued home metoprolol and home 
lasix.
.
# Gout: Stable and inactive during this hospitalization. 
Continued home allopurinol.
.
# Hypothyroidism: Stable and inactive during this 
hospitalization. Continue home levothyroxine. 
.
# BPH: Stable, continued Finasteride 5 mg PO DAILY, continued 
Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath per home 
schedule. 
. 
.
Transitional Issues: 
- f/u with PCP
- INR monitoring at dialysis with dose adjustment of warfarin as 
needed
- continue dialysis on home schedule, follow with nephrology
- would recommend trial of increased epo x 1 month and reeval to 
see if any improvement in anemia
- sucralfate started in addition to continuation of pantoprazole 
for gastritis seen on EGD
- vascular surgery follow up on ___ for possible revision of AVF
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO ASDIR 
Take ___ of 100mg tablet after HD and on ___ 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Nephrocaps 1 CAP PO DAILY 
4. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Metoprolol Succinate XL 50 mg PO BID 
7. Pantoprazole 40 mg PO Q12H 
8. Warfarin 4 mg PO DAILY16 
9. Warfarin 1 mg PO ASDIR 
Take ___ to 1 tab as directed by ___ clinic 
10. Cinacalcet 30 mg PO BID 
11. Finasteride 5 mg PO DAILY 
12. Furosemide 80 mg PO ONCE DAILY ON ___ DAYS 
13. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath 
Use as directed for voiding 
14. Acetaminophen 325 mg PO Q6H:PRN pain 
15. Docusate Sodium 100 mg PO BID 
16. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
17. Paricalcitol 6 mcg IV 3X/WEEK (___) with dialysis 
treatment 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO ASDIR 
3. Cinacalcet 30 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 80 mg PO ONCE DAILY ON ___ DAYS 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath 
9. Metoprolol Succinate XL 50 mg PO BID 
10. Nephrocaps 1 CAP PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
12. Paricalcitol 6 mcg IV 3X/WEEK (___) with dialysis 
treatment 
___. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
15. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
16. Warfarin 1 mg PO ASDIR 
17. Sucralfate 1 gm PO TID 
RX *sucralfate 1 gram 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
18. Warfarin 4 mg PO DAILY16 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Anemia, gastritis, ESRD on HD

Secondary: afib on warfarin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you in the hospital. You were 
admitted for evaluation of anemia. You had an endoscopy done 
that showed some inflammation of your stomach. You were already 
taking the appropriate medication to treat this problem. You 
also had a capsule study of your intestines and you will follow 
up with the GI specialists and Dr. ___ the results. Your 
hematocrit remained stable throughout your stay in the hospital 
and you did not require any blood transfusion. 

You were continued on your regular dialysis schedule and your 
home medications. Please START sucralfate for your gastritis. 

Please weigh yourself every morning, and call your doctor if 
weight goes up more than 3 lbs.

Please see the attached sheet for your updated medication list. 
 
Followup Instructions:
___